US04952600
(Racemic)-N-[4-(3-Hydroxy-1-pyrrolidinyl)-2-butynyl]-N-methyl acetamide
A mixture of 820 mg of (racemic)-N-[4-[3-(acetyloxy)-1-pyrrolidinyl]-2-butynyl]-N-methyl acetamide, 635 mg of sodium carbonate and 40 ml of methanol was stirred overnight. An equal volume of dichloromethane was added, the mixture filtered and the solvents concentrated. This residue was purified by chromatography (alumina), giving 500 mg of the desired product as a yellow oil.

reactant | (racemic)-N-[4-[3-(acetyloxy)-1-pyrrolidinyl]-2-butynyl]-N-methyl acetamide | 820 mg | C(C)(=O)OC1CN(CC1)CC#CCN(C(C)=O)C | C13H20N2O3
reactant | sodium carbonate | 635 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | 40 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Racemic)-N-[4-(3-Hydroxy-1-pyrrolidinyl)-2-butynyl]-N-methyl acetamide | 500 mg | OC1CN(CC1)CC#CCN(C(C)=O)C | C11H18N2O2
